US04386211
2-carbethoxyamino-4-methylthiazole
A mixture of 5.00 g (43.8 mmole) of 2-amino-4-methylthiazole and 21.0 g (130 mmole) of diethyl pyrocarbonate is stirred in 100 ml of dimethylformamide, with provision for evolution of carbon dioxide. After 18 hours the reaction mixture is treated with 10 ml each of water and ethanol and stirred for approximately 1 hour, then concentrated at reduced pressure to a gum. Addition and evaporation of several quantities of aqueous ethanol produce a sticky solid. The crude product is dissolved in less than 75 ml of hot ethanol and filtered. About 30 to 40 ml of water is added to the filtrate, which is then concentrated by boiling until the volume is reduced to about 75 ml. From the cooled solution is precipitated 7.27 g (39.0 mmole) of analytically pure yellow crystals of the product. Structure assignment is supported by the nmr spectrum.

reactant | 2-amino-4-methylthiazole | 43.8 mmole, 5.00 g | NC=1SC=C(N1)C | C4H6N2S
reactant | diethyl pyrocarbonate | 130 mmole, 21.0 g | C(OCC)(=O)OC(=O)OCC | C6H10O5
reactant | carbon dioxide | C(=O)=O | CO2
reactant | water | 10 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ethanol | less than 75 ml | C(C)O | C2H6O
product | 2-carbethoxyamino-4-methylthiazole | C(=O)(OCC)NC=1SC=C(N1)C | C7H10N2O2S
